US06727264B1
2-[6-(4-PHENYL-1-PIPERIDINYL)HEXYL]-1H-ISOINDOLE-1,3(2H)-DIONE:
To the 500 ml RB-flask was added 4-phenylpiperidine hydrochloride (5 g, 25 mmol), N-(6-bromohexyl)phthalimide (15.5 g, 50 mmol), N,N-diisopropylethylamine (21.8 ml, 125 mmol), tetrabutylammonium iodide (0.2 g), and dioxane (250 ml) at room temperature. The reaction mixture was stirred at 100° C. for 72 h. The solvent was removed in vacuo and the crude product was purified by flash chromatography (98:2=Chloroform:2N ammonia in methanol) to afford 7.67 g of the desired product (77% yield): 1H NMR (400 MHz, CDCl3) δ 7.78-7.79 (m, 2H), 7.74-7.65 (m, 2H), 7.32-7.14 (m, 5H), 3.69 (t, 2H, J=7.35 Hz), 3.06 (d, 2H, J=11.0 Hz), 2.49 (quintet, 1H, J=7.6 Hz), 2.36 (t, 2H, J=7.6 Hz), 2.02 (t, 2H, J=12.5 Hz), 1.82 (br s, 4H), 1.69 (t, 2H, J=6.3 Hz), 1.54 (br s, 2H), 1.37 (br s, 4H); ESMS m/e: 391.3 (M+H)+; Anal. Calc. for C25H30N2O2+0.2H2O: C, 76.19; H, 7.77; N, 7.11. Found: C, 76.14; H, 7.38; N, 7.13.

reactant | 4-phenylpiperidine hydrochloride | 25 mmol, 5 g | Cl.C1(=CC=CC=C1)C1CCNCC1
reactant | N-(6-bromohexyl)phthalimide | 50 mmol, 15.5 g | BrCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H16BrNO2
reactant | N,N-diisopropylethylamine | 125 mmol, 21.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | tetrabutylammonium iodide | 0.2 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 2-[6-(4-PHENYL-1-PIPERIDINYL)HEXYL]-1H-ISOINDOLE-1,3(2H)-DIONE | 7.67 g, 77% yield | C1(=CC=CC=C1)C1CCN(CC1)CCCCCCN1C(C2=CC=CC=C2C1=O)=O | C25H30N2O2
